US04405552
EXAMPLE 49: 2-CHLORO-6-(4-CHLOROPHENYL)-3-PYRIDINECARBONITRILE
6-(4-Chlorophenyl)-3-cyano-2-pyridone (42 grams) and phenylphosphonic dichloride were heated for 2.5 hours at 175°-180° C. taking precautions to keep the reaction dry. Upon cooling, the reaction mixture was poured into 500 ml of ice water and was made slightly alkaline by the addition of concentrated NH4OH. A solid product formed which was thoroughly washed with water and recrystallized from ethanol/DMF, yield 42 grams, m.p. 179°-181° C.

reactant | 6-(4-Chlorophenyl)-3-cyano-2-pyridone | 42 grams | ClC1=CC=C(C=C1)C1=CC=C(C(N1)=O)C#N | C12H7ClN2O
reactant | phenylphosphonic dichloride | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
product | 2-CHLORO-6-(4-CHLOROPHENYL)-3-PYRIDINECARBONITRILE | ClC1=NC(=CC=C1C#N)C1=CC=C(C=C1)Cl | C12H6Cl2N2
